US07138425B2
a) 2-(3-Amino-4-methoxyphenyl)-naphth[2,3-d]oxazole
Prepared by the method of Example 1a), from 3-amino-2-naphthol (476 mg, 2.9 mmol) and 4-methoxy-3-aminobenzoic acid (500 mg, 2.9 mmol) the subtitle compound was obtained, 120 mg (14%). 1H NMR (CDCl3) δ 8.06(s, 1H), 7.92–7.83(m, 3H), 7.67(dd, J=1.9, 8.2 Hz, 1H), 7.60(d, J=1.9 Hz, 1H), 7.38(m, 2H), 6.85(d, J=8.3 Hz, 1H), 3.88(s, 3H). MS 291 m/z (M+H)+.

reactant | 3-amino-2-naphthol | 2.9 mmol, 476 mg | NC=1C(=CC2=CC=CC=C2C1)O | C10H9NO
reactant | 4-methoxy-3-aminobenzoic acid | 2.9 mmol, 500 mg | COC1=C(C=C(C(=O)O)C=C1)N | C8H9NO3
product | 2-(3-Amino-4-methoxyphenyl)-naphth[2,3-d]oxazole | NC=1C=C(C=CC1OC)C=1OC2=C(N1)C=C1C=CC=CC1=C2 | C18H14N2O2
